US05252601
Optional Step d2 : N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-leucine
Dissolve N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-leucine, methyl ester (146 mg, 0.36 mmol) in methanol (3 mL). Add a solution of lithium hydroxide monohydrate (1 mL in water, 1 mmol) and stir at room temperature under argon for 16 hours. Evaporate the solvent in vacuo without heat and acidify with 2N hydrochloric acid. Extract into methylene chloride (2X), dry (MgSO4) and evaporate the solvent in vacuo to give the title compound as as white foam (142 mg, 100%).

reactant | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-leucine, methyl ester | 0.36 mmol, 146 mg | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](CC(C)C)C(=O)OC | C23H35NO3S
reactant | lithium hydroxide monohydrate | 1 mmol, 1 mL | O.[OH-].[Li+]
solvent | methanol | 3 mL | CO | CH4O
product | N-[[1,2,3,4-tetrahydro-2-[[(t-butyl)thio]methyl]-2-naphthalenyl]carbonyl]-L-leucine | C(C)(C)(C)SCC1(CC2=CC=CC=C2CC1)C(=O)N[C@@H](CC(C)C)C(=O)O | C22H33NO3S
